US03968138
N3 -(3-pentyl)-2,4-dinitro- 6-methyl-1,3-phenylenediamine
A mixture of 5.00 g. (0.0165 mole) of N-(3-pentyl)-3-chloro-2,6-dinitro-4-methylaniline and 30 ml. of dimethoxyethane was charged to a glass reaction tube. The tube was cooled, 5 ml. of anhydrous ammonia condensed into it, and the tube was then sealed. After heating for 5 hours at 94°C., the tube was opened and the reaction mixture was stripped of volatile material. The residue was taken up in 250 ml. of hot cyclohexane, the solution filtered while hot, then stripped to give an orange residue which was crystallized from 95% ethanol to give 1.02 g. of the desired product as orange needles, m.p. 157°-160.5°C. After recrystallization from 95% ethanol the product melts at 160°-161.5°C.

reactant | N-(3-pentyl)-3-chloro-2,6-dinitro-4-methylaniline | 0.0165 mole | CCC(CC)NC1=C(C(=C(C=C1[N+](=O)[O-])C)Cl)[N+](=O)[O-] | C12H16ClN3O4
reactant | ammonia | N | H3N
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | (3-pentyl)-2,4-dinitro- 6-methyl-1,3-phenylenediamine | CCC(CC)NC=1C(=C(C(=CC1[N+](=O)[O-])C)N)[N+](=O)[O-] | C12H18N4O4
